US06048868
1-Methylene-2-acetyl-1,2,3,4-tetrahydro-β-carboline
To a solution of harmalan (1 mmol) in pyridine (2 ml) is added acetic anhydride (1.1 eq). After acid hydrolysis and extraction with ethyl acetate, the crude product is flash-chromatographed (eluent: EtOAc/pet. ether; 50/50). The 1-methylene-2-acetyl-1,2,3,4-tetrahydro-β-carboline elutes off first.

reactant | harmalan | 1 mmol | CC1=C2C(=C3C=CC=CC3=N2)CCN1 | C12H12N2
reactant | acetic anhydride | 1.1 eq | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 1-Methylene-2-acetyl-1,2,3,4-tetrahydro-β-carboline | C=C1N(CCC=2C3=CC=CC=C3NC12)C(C)=O | C14H14N2O
